US06514996B2
(Step A) Ethyl 4-(6-iodo-2-methoxyphenoxy)crotonate (Compound IIbc-a)
Substantially the same procedure as in Step A of Reference Example 1 was repeated using 6-iodo-2-methoxyphenol [Heterocyclic Communications, 289 (1995)] (0.4 g) and ethyl 4-bromocrotonate (0.29 ml) to give Compound IIbc-a (0.52 g, 90%) as a pale-yellow oily substance.

reactant | 6-iodo-2-methoxyphenol | 0.4 g | IC1=CC=CC(=C1O)OC | C7H7IO2
reactant | ethyl 4-bromocrotonate | 0.29 ml | BrC/C=C/C(=O)OCC | C6H9BrO2
product | Ethyl 4-(6-iodo-2-methoxyphenoxy)crotonate | IC1=CC=CC(=C1OC/C=C/C(=O)OCC)OC | C13H15IO4
